US07989449B2
1-Bromo-3-(1-[4-isopropoxy-phenyl]-vinyl)-benzene
n-Butyllithium (1.6 M solution in hexane, 12.0 mL, 0.9 eq) was added dropwise to a solution of 1-bromo-4-isopropoxy-benzene (4.8 g, 22 mmol, 1.0 eq) in tetrahydrofuran (20 mL) at −78° C. After stirring 30 min 3-bromoacetophenone (3.3 mL, 1.1 eq) in tetrahydrofuran (20 mL) was added dropwise. The mixture was allowed to warm up to room temperature and stirred for 2 h, then treated with 1 N HCl (10 mL), extracted with ethyl acetate, dried (sodium sulfate) and concentrated in vacuo. The crude material was dissolved in acetic acid (50 mL) and sulfuric acid (10 mL) and the mixture was warmed to 75° C. for 30 min, cooled at room temperature and 1 N NaOH was added up to pH=7. The aqueous phase was extracted with dichloromethane (3×10 mL), dried (sodium sulfate) the solvent was removed and the residue was purified by column chromatography (cyclohexane) to afford the title compound as a colourless oil (1.8 g, 25%);

reactant | n-Butyllithium | 1.6 M, 12.0 mL, 0.9 eq | C(CCC)[Li]
reactant | 1-bromo-4-isopropoxy-benzene | 22 mmol, 4.8 g, 1.0 eq | BrC1=CC=C(C=C1)OC(C)C | C9H11BrO
reactant | 3-bromoacetophenone | 3.3 mL, 1.1 eq | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | HCl | 1 N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-Bromo-3-(1-[4-isopropoxy-phenyl]-vinyl)-benzene | 1.8 g, 25% | BrC1=CC(=CC=C1)C(=C)C1=CC=C(C=C1)OC(C)C | C17H17BrO
